US07202363B2
(2E)-3-(4-amino-3-bromothieno[3,2-c]pyridin-7-yl)acrylonitrile
To a solution of 3-bromo-7-iodothieno[3,2-c]pyridin-4-ylamine (430 mg, 1.21 mmol), triphenylphosphine (128 mg, 0.48 mmol) and sodium carbonate (257 mg, 2.42 mmol) in N,N-dimethylformamide (6 ml) was added acrylonitrile (0.32 ml, 4.84 mmol) followed by palladium(II) acetate (56 mg, 0.24 mmol). The reaction was heated at 77° C. for 18 hours under an atmosphere of nitrogen. The mixture was allowed to cool to ambient temperature and solvents were removed under reduced pressure. The residue was purified by flash chromatography on silica gel using ethyl acetate as the mobile phase to give the title compound (300 mg, 88%) as an off-white solid used directly in the following Suzuki coupling step. LCMS (Conditions g); Rt2.28; MS: MH+ 280.

reactant | 3-bromo-7-iodothieno[3,2-c]pyridin-4-ylamine | 1.21 mmol, 430 mg | BrC1=CSC2=C1C(=NC=C2I)N | C7H4BrIN2S
reactant | triphenylphosphine | 0.48 mmol, 128 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium carbonate | 2.42 mmol, 257 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | acrylonitrile | 4.84 mmol, 0.32 ml | C(C=C)#N | C3H3N
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
catalyst | palladium(II) acetate | 0.24 mmol, 56 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (2E)-3-(4-amino-3-bromothieno[3,2-c]pyridin-7-yl)acrylonitrile | 300 mg, 88% | NC1=NC=C(C2=C1C(=CS2)Br)/C=C/C#N | C10H6BrN3S
